US07288547B2
270 mg (1.5 mmol) of (2R, 3R)-(−)-2,3-butanediol is dissolved in 3 ml of pyridine and mixed with 30 mg (0.69 mmol) of sodium hydride. It is allowed to stir for 15 minutes at room temperature and then 110 mg (0.3 mmol) of 5-(5-bromo-4-chloro-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide is added. After 1 hour at room temperature, it is stirred for 4 more hours at 50° C. Concentration by evaporation and flashing with dichloromethane/MeOH 4:1 yields 42 mg of 5-[5-bromo-4-(2-hydroxy-1-methyl-propoxy)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide: (34% of theory)°

reactant | (2R, 3R)-(−)-2,3-butanediol | 1.5 mmol, 270 mg | C[C@H]([C@@H](C)O)O | C4H10O2
reactant | sodium hydride | 0.69 mmol, 30 mg | [H-].[Na+]
reactant | 5-(5-bromo-4-chloro-pyrimidin-2-ylamino)-pyridine-2-sulfonic acid amide | 0.3 mmol, 110 mg | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)Cl | C9H7BrClN5O2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 5-[5-bromo-4-(2-hydroxy-1-methyl-propoxy)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide | 42 mg | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)OC(C(C)O)C | C13H16BrN5O4S
